US08026257B2
5-Chloro-2-cyclopropyl-2H-indazole-7-carbaldehyde.
(5-Chloro-2-cyclopropyl-2H-indazol-7-yl)methanol (0.39 g, 1.75 mmol) and triethylamine (0.73 mL, 5.25 mmol) were combined in dimethyl sulfoxide (4 mL) and cooled to 0° C. The reaction was treated with sulfur trioxide pyridine complex (0.87 g, 5.25 mmol) in dimethyl sulfoxide (2 mL), stirred at 0° C. for 5 min, and at room temperature for 20 min. The reaction was poured into ice water and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with 10% acetic acid (2×), water (2×), saturated sodium bicarbonate (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (30% ethyl acetate/hexanes) gave 298 mg (77%) as a yellow solid. 1H-NMR (CDCl3, 300 MHz) δ 10.52 (s, 1H), 8.05 (s, 1H), 7.84 (d, J=2.2 Hz, 1H), 7.77 (d, J=1.8 Hz, 1H), 3.96-4.03 (m, 1H), 1.35-1.40 (m, 2H), 1.16-1.23 (m, 2H). Mass spec.: 221.30 (MH)+.

reactant | (5-Chloro-2-cyclopropyl-2H-indazol-7-yl)methanol | 1.75 mmol, 0.39 g | ClC1=CC2=CN(N=C2C(=C1)CO)C1CC1 | C11H11ClN2O
reactant | triethylamine | 5.25 mmol, 0.73 mL | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 5-Chloro-2-cyclopropyl-2H-indazole-7-carbaldehyde | ClC1=CC2=CN(N=C2C(=C1)C=O)C1CC1 | C11H9ClN2O
